US07790756B2
A mixture of 3-(6-methylpyridin-3-yloxy)-5-nitrobenzonitrile (3 g, 0.012 mol) and iron powder in acetic acid (200 mL) was stirred at RT for 6 h. H2O was added and the mixture was adjusted to pH 7 with saturated Na2CO3 solution. The aqueous layer was extracted with EtOAc, and the combined organics were washed with brine, dried (MgSO4), concentrated in vacuo and purified by silica gel chromatography to afford 3-amino-5-(6-methylpyridin-3-yloxy)benzonitrile (2 g, 76% yield). 1H NMR (400 MHz, DMSO) δ 8.25 (s, 1H), 7.42 (d, J=10 Hz, 1H), 7.30 (d, J=8.4 Hz, 1H), 6.62 (s, 1H), 6.51 (s, 1H), 6.38 (s, 1H), 5.78 (s, 2H), 2.49 (s, 3H); MS (ESI) m/z: 226.2 [M+H]+.

reactant | 3-(6-methylpyridin-3-yloxy)-5-nitrobenzonitrile | 0.012 mol, 3 g | CC1=CC=C(C=N1)OC=1C=C(C#N)C=C(C1)[N+](=O)[O-] | C13H9N3O3
reactant | H2O | O | H2O
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
catalyst | iron | [Fe] | Fe
product | 3-amino-5-(6-methylpyridin-3-yloxy)benzonitrile | 2 g, 76% yield | NC=1C=C(C#N)C=C(C1)OC=1C=NC(=CC1)C | C13H11N3O
